US07625903B2
(5R)-5-Methyl-1-(3-nitrophenyl)-4-(trifluoroacetyl)-2-piperazinone
To a solution of (5R)-5-methyl-1-(3-nitrophenyl)-2-piperazinone (640 mg, 2.72 mmol) and Hunig base (0.56 mL, 3.26 mmol) in CH2Cl2; trifluoroacetic anhydride was added at 0° C. Then reaction mixture was warmed up to room temperature for 1 h. Reaction mixture was participated between water and CH2Cl2. The organic phase was then washed by brine and dried over MgSO4. The solvent was evaporated to dryness which gave the title product was used for next step without further purification. MS: M(C11H13N3O)3)=235.24 (M+H)+=236.

reactant | (5R)-5-methyl-1-(3-nitrophenyl)-2-piperazinone | 2.72 mmol, 640 mg | C[C@H]1NCC(N(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H13N3O3
reactant | Hunig base | 3.26 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5R)-5-Methyl-1-(3-nitrophenyl)-4-(trifluoroacetyl)-2-piperazinone | C[C@H]1N(CC(N(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O)C(C(F)(F)F)=O | C13H12F3N3O4
